US06306993B1
To a suspension of o-hydroxy phenylacetic acid (15.0 g, 0.099 mol) in H2O (39 mL) at 0° C. was added a solution of nitric acid (12 mL of 65% in 8 mL H2O) slowly via pipette. The solution was stirred for an additional 1.5 h at 0° C. The mixture was then warmed to ambient temperature and allowed to stir for an additional 0.5 h. The heterogenous solution was poured over ice (10 g) and filtered to remove the insoluble ortho-nitro isomer. The reddish solution was concentrated under reduced pressure, and the thick residue was redissolved in 6N HCl and filtered through celite. The solvent was again removed under reduced pressure to provide the desired 2-hydroxy-4-nitro-phenylacetic acid as a light, brownish-red solid (40% yield). The product (IV-a) was used in the next step without further purification.

reactant | o-hydroxy phenylacetic acid | 0.099 mol, 15.0 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | nitric acid | 12 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2O | 39 mL | O | H2O
product | 2-hydroxy-4-nitro-phenylacetic acid | OC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H7NO5
